US07196110B2
1-Oxo-indan-2-carbothioic acid phenylamide, Intermediate A (Method A)
NaH (60% dispersion in mineral oil, 0.25 g, 6 mmol) and indan-1-one, Compound 1a, (0.50 g, 3.79 mmole) in THF (5 mL) were mixed under argon. The mixture was stirred at ambient temperature for 5 min. Then, phenylisothiocyanate, Compound 1b, (0.46 mL, 3.79 mmole) was added to the mixture. After an additional 5 min, the reaction was completed as shown by TLC analysis and the reaction mixture was poured into NH4Cl solution and then filtered subsequently. 1-Oxo-indan-2-carbothioic acid phenylamide (Intermediate A), was crystallized from CH3CN as a yellow solid. MS m/z 268 (M+H)+; 1H NMR (DMSO-d6):3.5 (dd, 0.3H), 3.8 (d, 0.15H), 3.9 (s, 1.55H), 4.3 (dd, 0.3H), 7.3 (t, 1H), 7.4–7.8 (m, 7.4H), 7.9 (d, 0.6H), 10.6 (s, 0.7H), 12.1 (s, 0.3H), 14.1 (s, 0.7H).

reactant | NaH | 6 mmol, 0.25 g | [H-].[Na+]
reactant | indan-1-one | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | phenylisothiocyanate | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-Oxo-indan-2-carbothioic acid phenylamide | C1(=CC=CC=C1)NC(=S)C1C(C2=CC=CC=C2C1)=O | C16H13NOS
